US06043366
8-Cyclodecyl-3-(3,3-diphenyl-1-propyl)-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:1)
The title compound, white solid, m.p. 219° C. and MS: m/e=564.5 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and 3,3-diphenyl-1-propylbromide.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | 3,3-diphenyl-1-propylbromide | C1(=CC=CC=C1)C(CCBr)C1=CC=CC=C1 | C15H15Br
product | 8-Cyclodecyl-3-(3,3-diphenyl-1-propyl)-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)CCC(C2=CC=CC=C2)C2=CC=CC=C2)=O)CC1 | InChI=1S/C38H49N3O.ClH/c42-37-38(26-29-39(30-27-38)34-21-13-4-2-1-3-5-14-22-34)41(35-23-15-8-16-24-35)31-40(37)28-25-36(32-17-9-6-10-18-32)33-19-11-7-12-20-33;/h6-12,15-20,23-24,34,36H,1-5,13-14,21-22,25-31H2;1H
